US05728699
Preparation of 4-Chloro-4'-methylsulfonylmethylbenzophenone-semicarbazone (Compound No. I-42)
4-chloro-4'-methylsulfonylmethylbenzophenone-hydrazone (1.3 g) and chlorosulfonyl isocyanate (0.63 g) were added to ethyl acetate (100 ml), and the mixture was stirred for one hour at room temperature. Then, water (100 ml) was added, and the mixture was further stirred for 16 hours at room temperature. The reaction mixture was subjected to liquid separation, and the ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. The residual solid was washed with a solvent mixture of ethyl acetate:n-hexane=4:1, to obtain the desired product (1.2 g, melting point: 189° to 191° C., yield: 80%).

reactant | 4-chloro-4'-methylsulfonylmethylbenzophenone-hydrazone | 1.3 g | ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)C)=NN)C=C1 | C15H15ClN2O2S
reactant | chlorosulfonyl isocyanate | 0.63 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | n-hexane | CCCCCC | C6H14
product | 4-Chloro-4'-methylsulfonylmethylbenzophenone-semicarbazone | 1.2 g, yield: 80% | ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)C)=NNC(=O)N)C=C1 | C16H16ClN3O3S
